US04521241
A suspension of 8.0 g of 1,3-dihydro-N-(1,1-dimethylethyl)-1-oxobenzo[c]thiophene-4-sulfonamide in a mixture of 15 ml of tetrahydrofuran, 25 ml of boron trifluoride etherate was cooled to 10° under N2, and 56 ml of a 1M solution of borane tetrahydrofuran complex was added dropwise at approximately 10°. The reaction mixture was allowed to warm to ambient temperature as a gas was evolved. When ambient temperature was reached, a slow exotherm to 31° occurred. When the exotherm subsided, the reaction mixture was heated to reflux for two hours, then cooled and allowed to stand overnight. The supernatant was decanted fom some brown solid, and concentrated in vacuo. The resulting yellow oil was cooled to approximately 5°, acidified with 5% hydrochloric acid (gas evolution), and diluted with 150 ml water. The aqueous mixture was extracted with ethyl acetate. The organic solution was washed twice with water, dried over magnesium sulfate, then filtered and the filtrate concentrated in vacuo. The resulting yellow oil was purified by chromatography, using methylene chloride as eluent, to give 3.6 g of 1,3-dihydro-N-(1,1-dimethylethyl)benzo[c]thiophene-4-sulfonamide, m.p. 128.5°-132°.

reactant | 1,3-dihydro-N-(1,1-dimethylethyl)-1-oxobenzo[c]thiophene-4-sulfonamide | 8.0 g | CC(C)(C)NS(=O)(=O)C1=CC=CC=2C(SCC21)=O | C12H15NO3S2
reactant | boron trifluoride etherate | 25 ml | B(F)(F)F.CCOCC
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 1,3-dihydro-N-(1,1-dimethylethyl)benzo[c]thiophene-4-sulfonamide | 3.6 g | CC(C)(C)NS(=O)(=O)C1=CC=CC=2CSCC21 | C12H17NO2S2
